US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-cyclohexane-1,3-diamine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and cyclohexane-1,3-diamine. MS obsd. (ESI+) [(M+H)+] 451, 1H NMR (400 MHz, CD3OD) δ ppm 8.04 (d, J=7.8 Hz, 1 H), 7.57 (d, J=7.3 Hz, 1 H), 7.53-7.47 (m, 2 H), 7.37 (t, J=7.7 Hz, 1 H), 7.32-7.26 (m, 2 H), 5.86 (s, 1 H), 5.16-5.00 (m, 2 H), 3.65-3.50 (brs, 4 H), 3.16 (brs, 1 H), 2.42 (s, 3 H), 2.45-2.38 (m, 1 H), 2.29 (d, J=11.1 Hz, 1 H), 2.03-1.85 (m, 3 H), 1.54-1.42 (m, 1 H), 1.40-1.24 (m, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | cyclohexane-1,3-diamine | C1(CC(CCC1)N)N | C6H14N2
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-cyclohexane-1,3-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC2CC(CCC2)N)C)=O | C25H30N4O2S
